US08604061B2
A solution of (RS)-tert-butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester (500 mg, CAS 143323-49-3) in DMF (4 ml) was treated under an argon atmosphere with 2-bromoethyl methyl ether (0.34 ml), cesium carbonate (695 mg) and tetrabutylammonium iodide (66 mg) and stirred at r.t. overnight. Then it was quenched with H2O and extracted with EtOAc. The organics were washed with water, dried over MgSO4, filtrated and concentrated. The crude product was purified by column chromatography (silica gel; gradient: cyclohexane ->cyclohexane/EtOAc 4:1) to give (RS)-tert-butoxycarbonylamino-[4-(2-methoxy-ethoxy)-phenyl]-acetic acid methyl ester (434 mg, 72%) as viscous colorless oil.

reactant | (RS)-tert-butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester | 500 mg | COC(C(C1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C14H19NO5
reactant | 2-bromoethyl methyl ether | 0.34 ml | COCCBr | C3H7BrO
reactant | cesium carbonate | 695 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 66 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (RS)-tert-butoxycarbonylamino-[4-(2-methoxy-ethoxy)-phenyl]-acetic acid methyl ester | 434 mg, 72% | COC(C(C1=CC=C(C=C1)OCCOC)NC(=O)OC(C)(C)C)=O | C17H25NO6
